chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Cl-:2].[F:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23]>>[Cl:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23].[F-:1],43.913489844054325
[Br:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[F:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24],23.347327096624056
[F:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[C:4](=[C:5]([N:11]([H:12])[H:13])[N:21]([H:22])[H:23])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[F-:1].[H:2][H:3],22.58660526009471
[Cl:1][C@:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([C:11]#[N:12])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5](/[C:11]#[N:12])[N+:21]([O-:22])[O:23])(\[N+:31]([O-:32])[O:33])[H:41].[Cl-:1].[H:2][H:3],1.5952436340606084
[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[H:21].[H-:2]>>[C:4](=[C:5]([N+:11]([O-:12])[O:13])[H:21])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl-:1].[H:2][H:3],5.859432835740991
[Cl:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([C:11]#[N:12])[C:21]#[N:22].[H-:2]>>[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([N:31]([H:32])[H:33])[H:41].[Cl-:1].[H:2][H:3],6.318159905153274
[F:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[C:4](=[C:5]([N:11]([H:12])[H:13])[N:21]([H:22])[H:23])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43].[F-:1].[H:2][H:3],7.720589303853427
